US05648372
2-Chloro-2',4'-difluoroacetophenone is added to 6-cyanobenzothiazole in the presence of n-butyllithium to form 1-(2,4-difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-chloroethanol.

reactant | 2-Chloro-2',4'-difluoroacetophenone | ClCC(=O)C1=C(C=C(C=C1)F)F | C8H5ClF2O
reactant | 6-cyanobenzothiazole | C(#N)C1=CC2=C(N=CS2)C=C1 | C8H4N2S
reactant | n-butyllithium | C(CCC)[Li]
product | 1-(2,4-difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-chloroethanol | FC1=C(C=CC(=C1)F)C(CCl)(O)C=1SC2=C(N1)C=CC(=C2)C#N | C16H9ClF2N2OS
